US07662402B2
In 25 ml of methanol, 1.0 g of 4-trifluoromethylcyclohexanecarboxylic acid was dissolved. Thereto 50 mg of concentrated hydrochloric acid was added and the mixture was heated under reflux for 10 hours. After the reaction mixture was cooled to room temperature, water was added thereto and the mixture was extracted with t-butyl methyl ether. The organic layer was washed with aqueous saturated sodium chloride, dried over anhydrous magnesium sulfate, and then concentrated under reduced pressure. The residue was subjected to silica gel column chromatography to obtain 0.83 g of methyl 4-trifluoromethylcyclohexanecarboxylate (cis/trans ratio 7/1).

reactant | 4-trifluoromethylcyclohexanecarboxylic acid | 1.0 g | FC(C1CCC(CC1)C(=O)O)(F)F | C8H11F3O2
reactant | hydrochloric acid | 50 mg | Cl | ClH
reactant | water | O | H2O
reactant | methanol | 25 ml | CO | CH4O
product | methyl 4-trifluoromethylcyclohexanecarboxylate | 0.83 g | FC(C1CCC(CC1)C(=O)OC)(F)F | C9H13F3O2
